US07625901B2
Step A. Methyl 2-{[2-(3,5-difluorophenyl)-2-oxoethyl]amino}-2-methylpropanoate
A mixture of methyl α-aminoisobutyrate hydrochloride (10.3 g, 67.0 mmol), 3,5-difluorophenacyl bromide (15.0 g, 63.8 mmol), and K2CO3 (17.6 g, 128 mmol) in DMF (100 mL) was stirred at ambient temperature for 3 h. Saturated aqueous NaHCO3 (400 mL) was added and the mixture was extracted with EtOAc (1 L). The organic layer was washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by silica gel chromatography, eluting with a gradient of hexane:EtOAc-100:0 to 0:100, to give the title compound. MS: m/z=272 (M+1).

reactant | methyl α-aminoisobutyrate hydrochloride | 67.0 mmol, 10.3 g | Cl.NC(C(=O)OC)(C)C
reactant | 3,5-difluorophenacyl bromide | 63.8 mmol, 15.0 g | FC=1C=C(C(CBr)=O)C=C(C1)F | C8H5BrF2O
reactant | K2CO3 | 128 mmol, 17.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaHCO3 | 400 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | Methyl 2-{[2-(3,5-difluorophenyl)-2-oxoethyl]amino}-2-methylpropanoate | FC=1C=C(C=C(C1)F)C(CNC(C(=O)OC)(C)C)=O | C13H15F2NO3
